US07678820B2
To a mixed solution was added a 1M aqueous NaOH solution (4.1 ml) of methyl 1-isobutyl-2-oxo-1,2-dihydropyridine-4-carboxylate (430 mg) in CH3OH-THF (4 ml-3 ml). The solution was stirred at room temperature for 10 hours, and then concentrated under reduced pressure, and water (10 ml) was added, and subsequently 1M HCl was added thereto until pH becomes 3. The resulting solid was collected by filtration, washed with water, and dried under reduced pressure to obtain 1-isobutyl-2-oxo-1,2-dihydropyridine-4-carboxylic acid (325 mg) as white powders.

reactant | NaOH | 1M, 4.1 ml | [OH-].[Na+]
reactant | methyl 1-isobutyl-2-oxo-1,2-dihydropyridine-4-carboxylate | 430 mg | C(C(C)C)N1C(C=C(C=C1)C(=O)OC)=O | C11H15NO3
solvent | CH3OH THF | 4 ml-3 ml | CO.C1CCOC1
product | 1-isobutyl-2-oxo-1,2-dihydropyridine-4-carboxylic acid | 325 mg | C(C(C)C)N1C(C=C(C=C1)C(=O)O)=O | C10H13NO3
